US08022209B2
1-Methyl-4-(2-thiophen-2-yl-pyridin-4-yl)-piperazine
To a microwave tube was added 4-chloro-2-thiophen-2-yl-pyridine (98 mg, 0.5 mmol), 1-methylpiperazine (200 mg, 1 mmol), 2-propanol (1.0 mL) and concentrated HCl (1 drop). The resulting mixture was heated at 180° C. for 40 min using a Personal Chemistry Smith Synthesizer. The resulting mixture was poured into water and extracted with CH2Cl2. The organic layer was dried and concentrated to yield a reside. The residue was purified by preparative TLC (CH2Cl2/MeOH) to yield the title compound as a solid.

reactant | 4-chloro-2-thiophen-2-yl-pyridine | 0.5 mmol, 98 mg | ClC1=CC(=NC=C1)C=1SC=CC1 | C9H6ClNS
reactant | 1-methylpiperazine | 1 mmol, 200 mg | CN1CCNCC1 | C5H12N2
reactant | 2-propanol | 1.0 mL | CC(C)O | C3H8O
catalyst | HCl | 1 drop | Cl | ClH
solvent | water | O | H2O
product | 1-Methyl-4-(2-thiophen-2-yl-pyridin-4-yl)-piperazine | CN1CCN(CC1)C1=CC(=NC=C1)C=1SC=CC1 | C14H17N3S
